US08124617B2
To a suspended solution of methyl 5-benzyloxy-2-hydroxybenzoate (3.91 g) and cesium carbonate (6.41 g) in acetone (100 ml) was added methyl iodide (1.41 ml), and the mixture was stirred at 50° C. for 6 hr. The reaction mixture was concentrated, dissolved again in ethyl acetate and washed with saturated brine. The organic layer was dried (over MgSO4), and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography (Biotage cartridge 40+M, ethyl acetate:n-hexane=15:85→1:4) to give methyl 5-benzyloxy-2-methoxybenzoate (3.72 g, 90%) as colorless crystals.

reactant | methyl 5-benzyloxy-2-hydroxybenzoate | 3.91 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)OC)C1)O | C15H14O4
reactant | cesium carbonate | 6.41 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 1.41 ml | CI | CH3I
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | methyl 5-benzyloxy-2-methoxybenzoate | 3.72 g, 90% | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)OC)C1)OC | C16H16O4
